US09034879B2
Step 3: 6-Bromo-2-(5-(1,1,1-trifluoro-2-(triisopropylsilyloxy)propan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)pyridin-3-amine
To a cooled (0° C.) solution of 3-amino-6-bromo-N′-(3,3,3-trifluoro-2-methyl-2-(triisopropylsilyloxy) propanoyl)-5-(trifluoromethyl)picolinohydrazide (5.42 g, 9.10 mmol) in DCM (50 ml) was added TEA (3.81 ml, 27.3 mmol). The resulting solution was stirred at 0° C. for 5 minutes and treated with Tosyl chloride (5.21 g, 27.3 mmol). The mixture was allowed to warm to RT and stirred for 48 h. The reaction mixture was partitioned between DCM (100 ml) and water (100 ml), phases shaken and separated. The organic portion was washed with 1M NaOH (100 ml), 1M HCl (100 ml), water (100 ml), brine (100 ml), dried (MgSO4) (˜10 g) and concentrated in vacuo to give an orange oil. Purification of the oil by chromatography on silica eluting with 0-15% EtOAc in iso-hexane afforded the title compound; LC-MS Rt=7.41 min [M+H]+ 577/579 Method 10minLC_v003.

reactant | 3-amino-6-bromo-N′-(3,3,3-trifluoro-2-methyl-2-(triisopropylsilyloxy) propanoyl)-5-(trifluoromethyl)picolinohydrazide | 9.10 mmol, 5.42 g | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)NNC(C(C(F)(F)F)(O[Si](C(C)C)(C(C)C)C(C)C)C)=O | C20H29BrF6N4O3Si
reactant | Tosyl chloride | 27.3 mmol, 5.21 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Bromo-2-(5-(1,1,1-trifluoro-2-(triisopropylsilyloxy)propan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)pyridin-3-amine | BrC1=C(C=C(C(=N1)C=1OC(=NN1)C(C(F)(F)F)(C)O[Si](C(C)C)(C(C)C)C(C)C)N)C(F)(F)F | C20H27BrF6N4O2Si
